US07846925B2
A mixture of ethyl-2-formyl-4-bromophenoxy acetate (60 g, 0.209 mol), LiOH (7.5 g, 0.31 mol), THF (250 mL) and water (100 mL) was stirred at RT for 24 h. The reaction mixture was concentrated under reduce pressure and residue acidified with 1.5N HCl to pH=2. The solid precipitate obtained was filtered and dried to give 4-bromo-2-formylphenoxy acetic acid (50 g, 94%).

reactant | ethyl-2-formyl-4-bromophenoxy acetate | 0.209 mol, 60 g | C(C)(=O)OOC1=C(C(=C(C=C1)Br)CC)C=O | C11H11BrO4
reactant | LiOH | 0.31 mol, 7.5 g | [Li+].[OH-]
reactant | THF | 250 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
product | 4-bromo-2-formylphenoxy acetic acid | 50 g, 94% | BrC1=CC(=C(OCC(=O)O)C=C1)C=O | C9H7BrO4
